US04314061
3,6-bis(4-diethylaminobutoxy)acridine trihydrochloride
A mixture of 2.0 g. of 3,6-bis(4-chlorobutoxy) acridine hydrochloride and 150 ml. of diethylamine is heated in a steel bomb at 100° C. for 24 hours. The excess diethylamine is removed under reduced pressure. The residue is dissolved in 150 ml. of chloroform and this chloroform solution is washed with two 30 ml. portions of saturated aqueous sodium bicarbonate, then dried over sodium sulfate and filtered. The chlorofrom is evaporated and the residue is dissolved in 50 ml. of absolute ethanol. A 10 ml. portion of 6 N hydrochloric acid in isopropanol is added giving the desired product as yellow crystals.

reactant | 3,6-bis(4-chlorobutoxy) acridine hydrochloride | Cl.ClCCCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCCCl
reactant | diethylamine | C(C)NCC | C4H11N
product | 3,6-bis(4-diethylaminobutoxy)acridine trihydrochloride | Cl.Cl.Cl.C(C)N(CCCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCCN(CC)CC)CC | InChI=1S/C29H43N3O2.3ClH/c1-5-31(6-2)17-9-11-19-33-26-15-13-24-21-25-14-16-27(23-29(25)30-28(24)22-26)34-20-12-10-18-32(7-3)8-4;;;/h13-16,21-23H,5-12,17-20H2,1-4H3;3*1H
